US05866576
To a suspension of sodium theobromine (9.05 g, 50.0 mmol) in dimethylsulfoxide (90 mL) was added 7-methanesulfonyl-1-heptene (9.30 g, 48.2 mmol). The reaction was stirred for 16 hours at 60° C. The mixture was then poured into water (100 mL) and extracted with ethyl acetate (3×100 mL). The organic portions were combined, dried, and evaporated to give an orange solid. Chromatography (silica, ethyl acetate/hexane) yielded 6.50 g (47% yield) 1-(6-Heptenyl)-3,7-dimethylxanthine (inventive compound no. 1534) as a white solid.

reactant | sodium theobromine | 50.0 mmol, 9.05 g | N1C(=O)N(C)C=2N=CN(C)C2C1=O.[Na]
reactant | 7-methanesulfonyl-1-heptene | 48.2 mmol, 9.30 g | CS(=O)(=O)CCCCCC=C | C8H16O2S
reactant | water | 100 mL | O | H2O
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dimethylsulfoxide | 90 mL | CS(=O)C | C2H6OS
product | 1-(6-Heptenyl)-3,7-dimethylxanthine | 6.50 g, 47% yield | C(CCCCC=C)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C14H20N4O2
